US07432256B2
a) 2-Fluoro-6-(4-methyl-imidazol-1-yl)-benzonitrile
In analogy to example 5a, 2,6-difluoro-benzonitrile was reacted with 4-methylimidazole and potassium carbonate for 16 h at 90° C. After extractive workup and chromatography (SiO2, dichloromethane:methanol=100:0 to 98:2) the title compound was obtained as an off-white solid (yield: 29%). 1H-NMR (300 MHz, DMSO): δ=2.19 (d, J=0.8 Hz, 3H), 7.39 (s with fine splitting, 1H), 7.56-7.64 (m, 2H), 7.92 (mc, 1H), 8.04 (d, J=1.2 Hz, 1H).

reactant | 2,6-difluoro-benzonitrile | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | 4-methylimidazole | CC=1N=CNC1 | C4H6N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 2-Fluoro-6-(4-methyl-imidazol-1-yl)-benzonitrile | FC1=C(C#N)C(=CC=C1)N1C=NC(=C1)C | C11H8FN3
